US07101537B2
b) Route B: Preparation of 2-chloro-3-(2-ethylhexylamino)quinoxaline
12 g (60.3 mmol) of 2,3-dichloroquinoxaline are dissolved in 125 ml of THF with 9.5 g (72.1 mmol) of diisopropylethylamine. 8.5 g (66 mmol) of 2-ethylhexylamine are added dropwise to the solution, and the reaction is refluxed for a total of 48 hours until starting material is no longer visible according to TLC (silica gel: n-heptane/MTB ether). The reaction solution is evaporated to dryness in a rotary evaporator, and the crude product is chromatographed over silica gel using n-heptane/MTB ether. The product-containing fractions are collected and evaporated in a rotary evaporator. Yield: 11.8 g (67%)

reactant | 2,3-dichloroquinoxaline | 60.3 mmol, 12 g | ClC1=NC2=CC=CC=C2N=C1Cl | C8H4Cl2N2
reactant | diisopropylethylamine | 72.1 mmol, 9.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-ethylhexylamine | 66 mmol, 8.5 g | C(C)C(CN)CCCC | C8H19N
reactant | n-heptane | CCCCCCC | C7H16
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-chloro-3-(2-ethylhexylamino)quinoxaline | ClC1=NC2=CC=CC=C2N=C1NCC(CCCC)CC | C16H22ClN3
